US08476432B2
2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide (30.0 g), ethyl acetate (240.0 mL), sodium bicarbonate (28.5 g), potassium bromide (3.0 g), and TEMPO (0.06 g) were added to a reactor. The temperature of the reaction mixture was adjusted to 0˜5° C. 10% Sodium hypochlorite solution (96.0 mL) was slowly added to the reaction mixture, which was then stirred at 0˜5° C. for 2 hours. 5% Sodium sulfite solution (150.0 mL) was added to the reaction mixture. The separated organic layer was washed with 10% sodium chloride solution (150.0 mL). The organic layer was concentrated under reduced pressure to obtain 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide as a light brown solid (27.7 g, yield 93%).

reactant | 2-[(4R,6S)-6-hydroxymethyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 30.0 g | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H21NO5
reactant | sodium bicarbonate | 28.5 g | C([O-])(O)=O.[Na+]
reactant | potassium bromide | 3.0 g | [Br-].[K+]
reactant | Sodium hypochlorite | 96.0 mL | Cl[O-].[Na+]
reactant | Sodium sulfite | 150.0 mL | S(=O)([O-])[O-].[Na+].[Na+]
catalyst | TEMPO | 0.06 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | ethyl acetate | 240.0 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(4R,6S)-6-formyl-2,2-dimethyl-[1,3]dioxan-4-yl]-N-methoxy-N-methyl-acetamide | 27.7 g, yield 93% | C(=O)[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC | C11H19NO5
